US04022900
5-(3,4-dimethoxybenzamido) isoquinoline (2.7 g) was dissolved in 10% hydrochloric acid (100 ml) and methanol (100 ml) with warming. This was hydrogenated over platinum oxide (200 mg) at 45 psi. The catalyst was removed by filtration and the filtrate cooled in the refrigerator. A white precipitate formed and was collected by filtration and recrystallized from methanol to yield 2.1 g of 5-(3,4-dimethoxybenzamido)-1,2,3,4-tetrahydroisoquinoline hydrochloride as a white crystalline powder, m.p., 287°-288° C.

reactant | 5-(3,4-dimethoxybenzamido) isoquinoline | 2.7 g | COC=1C=C(C(=O)NC2=C3C=CN=CC3=CC=C2)C=CC1OC | C18H16N2O3
reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 100 ml | Cl | ClH
catalyst | platinum oxide | 200 mg | [Pt]=O
product | 5-(3,4-dimethoxybenzamido)-1,2,3,4-tetrahydroisoquinoline hydrochloride | 2.1 g | Cl.COC=1C=C(C(=O)NC2=C3CCNCC3=CC=C2)C=CC1OC | InChI=1S/C18H20N2O3.ClH/c1-22-16-7-6-12(10-17(16)23-2)18(21)20-15-5-3-4-13-11-19-9-8-14(13)15;/h3-7,10,19H,8-9,11H2,1-2H3,(H,20,21);1H
